### PR TITLE
[Merged by Bors] - refactor: override `≤` and `<` in `Function.Injective.semilatticeSup`, etc.

### PR DESCRIPTION
**Pull request by vihdzp**
These constructors now take `LE` and `LT` instance arguments, and proofs that the "induced" relations are equal. This matches the behavior for all other data fields of the same constructors, which avoids diamonds which could otherwise arise.

To recover the old behavior, you can instantiate `LE` and `LT` instances through `PartialOrder.lift` (if they don't exist already), and set the `le` and `lt` fields to `Iff.rfl`.

---

I seem to have (somehow?) changed a syntactic equality on fractional ideals - given that this golfs various proofs and even removes a porting note, I think this change is desirable.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by YaelDillies** [comment]
What's your use case here?

**Comment by plp127** [comment]
> What's your use case here?

In #29996 the order on concepts is defined as `(c ≤ d) = (c.extent ⊆ d.extent)`, when lifting semilattice inf the induced order is also `(c ≤ d) = (c.extent ⊆ d.extent)` which is defeq (that's good), but when lifting semilattice sup the induced order is `(c ≤ d) = (d.intent ⊆ c.intent)` which is equal but not defeq (that's not so great).

**Comment by YaelDillies** [comment]
I think it would be better to split into:
* the existing `Function.Injective.semilatticeSup`
* a constructor to replace an existing `LE` with a new `LE`. (`SemilatticeSup.replaceLE` maybe?)

and not have the composition of the two

**Comment by vihdzp** [comment]
Would we need both `replaceLE` and `replaceLT`? Do we need a `replaceSup` as well? I don't like having to ask these questions when my use case doesn't require them.

**Comment by YaelDillies** [comment]
I think you'll need `replaceLE` and `replaceLT` but not `replaceSup`. I am pushing for this because the alternative is to duplicate all the `Function.Injective.blah`s on orders.

**Comment by Vierkantor** [comment]
I disagree with Yaël here: algebraic instances like [Function.Injective.group](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/InjSurj.html#Function.Injective.group) also allow providing one's own operators. And this is much better since we can avoid lots of diamond issues this way.

I would even go further and suggest that we can replace the original versions outright.

**Comment by YaelDillies** [comment]
There's a big difference however: `Group` and alike are algebraic theories, while `Preorder` and alike are relational theories. This, to me, justifies the difference of treatment.

**Comment by Vierkantor** [comment]
But they still suffer from the same defeq issues, no? Whether your data is `A -> A -> A` or `A -> A -> Prop`, it still is data...

**Comment by vihdzp** [comment]
I like the idea of replacing the original forms. If you do want to set the `≤` and `<` fields to the defaults from `PartialOrder.lift` you can (and probably should) start out by defining a `PartialOrder` instance through it.

File: Mathlib/Order/BooleanAlgebra/Basic.lean [hunk 1]
```diff
@@ -611,32 +611,33 @@ section lift
 
 -- See note [reducible non-instances]
 /-- Pullback a `GeneralizedBooleanAlgebra` along an injection. -/
-protected abbrev Function.Injective.generalizedBooleanAlgebra [Max α] [Min α] [Bot α] [SDiff α]
-    [GeneralizedBooleanAlgebra β] (f : α → β) (hf : Injective f)
+protected abbrev Function.Injective.generalizedBooleanAlgebra [Max α] [Min α]
+    [LE α] [LT α] [Bot α] [SDiff α] [GeneralizedBooleanAlgebra β] (f : α → β) (hf : Injective f)
+    (le : ∀ {x y}, f x ≤ f y ↔ x ≤ y) (lt : ∀ {x y}, f x < f y ↔ x < y)
```
Comment (plp127) [inline Mathlib/Order/BooleanAlgebra/Basic.lean]: These be called `map_le` and `map_lt` to be consistent with the other arguments.

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 2]
```diff
@@ -677,145 +677,161 @@ section lift
 
 -- See note [reducible non-instances]
 /-- Pullback an `Order.Frame.MinimalAxioms` along an injection. -/
-protected abbrev Function.Injective.frameMinimalAxioms [Max α] [Min α] [SupSet α] [InfSet α] [Top α]
-    [Bot α] (minAx : Frame.MinimalAxioms β) (f : α → β) (hf : Injective f)
+protected abbrev Function.Injective.frameMinimalAxioms [Max α] [Min α] [LE α] [LT α]
+    [SupSet α] [InfSet α] [Top α] [Bot α] (minAx : Frame.MinimalAxioms β)
+    (f : α → β) (hf : Injective f)
+    (le : ∀ {x y}, f x ≤ f y ↔ x ≤ y) (lt : ∀ {x y}, f x < f y ↔ x < y)
```
Comment (plp127) [inline Mathlib/Order/CompleteBooleanAlgebra.lean]: (same as above) should be `map_le` and `map_lt`.

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 3]
```diff
@@ -677,145 +677,161 @@ section lift
...
     exact ((map_sSup _).trans iSup_image).ge
 
 -- See note [reducible non-instances]
 /-- Pullback an `Order.Coframe.MinimalAxioms` along an injection. -/
-protected abbrev Function.Injective.coframeMinimalAxioms [Max α] [Min α] [SupSet α] [InfSet α]
-    [Top α] [Bot α] (minAx : Coframe.MinimalAxioms β) (f : α → β) (hf : Injective f)
+protected abbrev Function.Injective.coframeMinimalAxioms [Max α] [Min α] [LE α] [LT α]
+    [SupSet α] [InfSet α] [Top α] [Bot α] (minAx : Coframe.MinimalAxioms β)
+    (f : α → β) (hf : Injective f)
+    (le : ∀ {x y}, f x ≤ f y ↔ x ≤ y) (lt : ∀ {x y}, f x < f y ↔ x < y)
```
Comment (plp127) [inline Mathlib/Order/CompleteBooleanAlgebra.lean]: (same as above) should be `map_le` and `map_lt`.

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 4]
```diff
@@ -677,145 +677,161 @@ section lift
...
+  __ := hf.frameMinimalAxioms .of f le lt map_sup map_inf map_sSup map_sInf map_top map_bot
+  __ := hf.heytingAlgebra f le lt map_sup map_inf map_top map_bot map_compl map_himp
 
 -- See note [reducible non-instances]
 /-- Pullback an `Order.Coframe` along an injection. -/
-protected abbrev Function.Injective.coframe [Max α] [Min α] [SupSet α] [InfSet α] [Top α] [Bot α]
-    [HNot α] [SDiff α] [Coframe β] (f : α → β) (hf : Injective f)
+protected abbrev Function.Injective.coframe [Max α] [Min α] [LE α] [LT α] [SupSet α] [InfSet α]
+    [Top α] [Bot α] [HNot α] [SDiff α] [Coframe β] (f : α → β) (hf : Injective f)
+    (le : ∀ {x y}, f x ≤ f y ↔ x ≤ y) (lt : ∀ {x y}, f x < f y ↔ x < y)
```
Comment (plp127) [inline Mathlib/Order/CompleteBooleanAlgebra.lean]: (same as above) should be `map_le` and `map_lt`.

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 5]
```diff
@@ -677,145 +677,161 @@ section lift
...
-      ∀ a b, f (a ⊓ b) = f a ⊓ f b) (map_sSup : let _ := minAx.toCompleteLattice
-      ∀ s, f (sSup s) = ⨆ a ∈ s, f a) (map_sInf : let _ := minAx.toCompleteLattice
-      ∀ s, f (sInf s) = ⨅ a ∈ s, f a) (map_top : let _ := minAx.toCompleteLattice
-      f ⊤ = ⊤) (map_bot : let _ := minAx.toCompleteLattice
-      f ⊥ = ⊥) :
+protected abbrev Function.Injective.completeDistribLatticeMinimalAxioms [Max α] [Min α]
+    [LE α] [LT α] [SupSet α] [InfSet α] [Top α] [Bot α]
+    (minAx : CompleteDistribLattice.MinimalAxioms β) (f : α → β) (hf : Injective f)
+    (le : let _ := minAx.toCompleteLattice; ∀ {x y}, f x ≤ f y ↔ x ≤ y)
+    (lt : let _ := minAx.toCompleteLattice; ∀ {x y}, f x < f y ↔ x < y)
```
Comment (plp127) [inline Mathlib/Order/CompleteBooleanAlgebra.lean]: (same as above) should be `map_le` and `map_lt`.

File: Mathlib/Order/BooleanAlgebra/Basic.lean (hunk 1 above)
Comment (plp127) [inline Mathlib/Order/BooleanAlgebra/Basic.lean:624]: These should be called `map_le` and `map_lt`, to be consistent with the other arguments.

File: Mathlib/Algebra/Order/Kleene.lean [hunk 6]
```diff
@@ -315,59 +315,59 @@ namespace Function.Injective
 
 -- See note [reducible non-instances]
 /-- Pullback an `IdemSemiring` instance along an injective function. -/
-protected abbrev idemSemiring [IdemSemiring α] [Zero β] [One β] [Add β] [Mul β] [Pow β ℕ] [SMul ℕ β]
-    [NatCast β] [Max β] [Bot β] (f : β → α) (hf : Injective f) (zero : f 0 = 0) (one : f 1 = 1)
+protected abbrev idemSemiring [IdemSemiring α] [LE β] [LT β] [Zero β] [One β]
+    [Add β] [Mul β] [Pow β ℕ] [SMul ℕ β] [NatCast β] [Max β] [Bot β] (f : β → α)
+    (hf : Injective f) (le : ∀ {x y}, f x ≤ f y ↔ x ≤ y) (lt : ∀ {x y}, f x < f y ↔ x < y)
```
Comment (plp127) [inline Mathlib/Algebra/Order/Kleene.lean:324]: Why are these arguments implicit? The other ones are all explicit.

File: Mathlib/CategoryTheory/Sites/Precoverage.lean [hunk 7]
```diff
@@ -77,7 +77,7 @@ instance : Bot (Precoverage C) where
 
 instance : CompleteLattice (Precoverage C) :=
   Function.Injective.completeLattice Precoverage.coverings (fun _ _ hab ↦ Precoverage.ext hab)
-    (fun _ _ ↦ rfl) (fun _ _ ↦ rfl) (fun _ ↦ rfl) (fun _ ↦ rfl) rfl rfl
+    .rfl .rfl (fun _ _ ↦ rfl) (fun _ _ ↦ rfl) (fun _ ↦ rfl) (fun _ ↦ rfl) rfl rfl
```
Comment (plp127) [inline Mathlib/CategoryTheory/Sites/Precoverage.lean:84]: Seeing all the `(fun _ _ ↦ rfl)`, maybe we should add an `autoParam`?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 8]
```diff
@@ -1364,18 +1364,19 @@ congr_arg₂ Prod.mk (congr_arg sSup <| fst_image_prod _ ht) (congr_arg sSup <|
...
-protected abbrev Function.Injective.completeLattice [Max α] [Min α] [SupSet α] [InfSet α] [Top α]
-    [Bot α] [CompleteLattice β] (f : α → β) (hf : Function.Injective f)
+protected abbrev Function.Injective.completeLattice [Max α] [Min α] [LE α] [LT α]
+    [SupSet α] [InfSet α] [Top α] [Bot α] [CompleteLattice β]
+    (f : α → β) (hf : Function.Injective f)
+    (le : ∀ {x y}, f x ≤ f y ↔ x ≤ y) (lt : ∀ {x y}, f x < f y ↔ x < y)
     (map_sup : ∀ a b, f (a ⊔ b) = f a ⊔ f b) (map_inf : ∀ a b, f (a ⊓ b) = f a ⊓ f b)
     (map_sSup : ∀ s, f (sSup s) = ⨆ a ∈ s, f a) (map_sInf : ∀ s, f (sInf s) = ⨅ a ∈ s, f a)
     (map_top : f ⊤ = ⊤) (map_bot : f ⊥ = ⊥) : CompleteLattice α where
-  -- we cannot use BoundedOrder.lift here as the `LE` instance doesn't exist yet
```
Comment (plp127) [inline Mathlib/Order/CompleteLattice/Basic.lean:1386]: Now that the `LE` instance exists, can you use `BoundedOrder.lift`?

File: Mathlib/Algebra/Order/Kleene.lean [hunk 9]
```diff
@@ -315,59 +315,59 @@ namespace Function.Injective
...
     (natCast : ∀ n : ℕ, f n = n) (sup : ∀ a b, f (a ⊔ b) = f a ⊔ f b) (bot : f ⊥ = ⊥) :
-    IdemSemiring β :=
-  { hf.semiring f zero one add mul nsmul npow natCast, hf.semilatticeSup _ sup,
-    ‹Bot β› with
-    add_eq_sup := fun a b ↦ hf <| by rw [sup, add, add_eq_sup]
-    bot := ⊥
-    bot_le := fun a ↦ bot.trans_le <| @bot_le _ _ _ <| f a }
+    IdemSemiring β where
+  __ := hf.semiring f zero one add mul nsmul npow natCast
+  __ := hf.semilatticeSup _ le lt sup
```
Comment (plp127) [inline Mathlib/Algebra/Order/Kleene.lean]: Since you do `hf.semiring f zero one add mul nsmul npow natCast` right above
```suggestion
  __ := hf.semilatticeSup f le lt sup
```

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 10]
```diff
@@ -717,7 +717,7 @@ lemma divMod_zero_of_not_le {a b c : FractionalIdeal R⁰ K} (hac : ¬ a ≤ c)
     c.divMod b a = 0 := by
   simp [divMod, hac]
 
-set_option maxHeartbeats 210000 in
+set_option maxHeartbeats 250000 in
```
Comment (plp127) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean]: Do you know the reason for this?

**Review by plp127 — COMMENTED** [review]
Thanks! A few comments.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 10 above)
Comment (vihdzp) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: No idea. Presumably changing the syn-eq for fractional ideal ≤ had knock-on effects, but I couldn't tell you exactly what they were.

File: Mathlib/Algebra/Order/Kleene.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Kleene.lean:324]: This is copying [`Function.Injective.preorder`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Basic.html#Function.Injective.preorder). Given that nearly all of the proofs of these fields are `rfl` I'd argue that the other args should be implicit as well, but that's probably out of scope.

File: Mathlib/CategoryTheory/Sites/Precoverage.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/CategoryTheory/Sites/Precoverage.lean:84]: That seems like a good idea. I'd argue that implementing this is scope creep (this PR is only really meant to allow the overriding of `≤` and `<`, while the autoparams are more of a QoL change), so I'll try it in a follow-up PR.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 8 above)
Comment (vihdzp) [reply Mathlib/Order/CompleteLattice/Basic.lean:1386]: We can!

File: Mathlib/Order/BooleanAlgebra/Basic.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/BooleanAlgebra/Basic.lean:624]: This is also copying [`Function.Injective.preorder`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Basic.html#Function.Injective.preorder). Should we change both?

Also worth noting that the names of the fields are already inconsistent for other arguments. For instance, `∀ x y, f (x * y) = f x * f y` is sometimes `mul`, and sometimes `map_mul`.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 10 above)
Comment (Vierkantor) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: I tried staring at the `trace.profiler` output for a while, with no real results. For some reason all the definitional equality checking in this file is just very slow...

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 8 above)
Comment (plp127) [reply Mathlib/Order/CompleteLattice/Basic.lean:1386]: Will you do it?

Comment (vihdzp) [reply Mathlib/Order/CompleteLattice/Basic.lean:1386]: I did? might have forgotten to push, gimme a sec

Comment (vihdzp) [reply Mathlib/Order/CompleteLattice/Basic.lean:1386]: There goes.

**Comment by Vierkantor** [comment]
We got some changes to the implementation of ideals in Dedekind domains, so maybe after merging the `master` branch the slowdown is better now?

**Comment by vihdzp** [comment]
Seems like the heartbeats issue is gone! Or at least, this PR isn't making it worse anymore.

**Comment by vihdzp** [comment]
!bench

**Comment by leanprover-radar** [comment]
Benchmarking a82a06bbf557098b93559bc8f2273bf085aad14c ([status](https://radar.lean-lang.org/repos/mathlib4/commits/a82a06bbf557098b93559bc8f2273bf085aad14c)) against b66f9a38d12cfb6b0b1e4398f3936c33ecf9e10c ([status](https://radar.lean-lang.org/repos/mathlib4/commits/b66f9a38d12cfb6b0b1e4398f3936c33ecf9e10c)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Review by Vierkantor — COMMENTED** [review]
I really don't know what is up with the slowdowns... A slightly evil idea is to apply Cunningham's law: merge it anyways, let someone on Zulip notice the slowdown and have them tell us the cause.

**Comment by Vierkantor** [comment]
I don't think the overall slowdown is noise. But we've tried enough here to try and figure out the source of the slowdowns, to conclude we can't do so. I would like to merge the PR and see if anyone following the benchmark RSS stream has a good idea. And if not, we'll say this is the cost of higher flexibility.

bors d+
